US05492925
Preparation of 2-(5-Bromo-2-furyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
Bromine (0.71 g, 4.42 mmol) is added to a solution of 2-(2-furyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (1.00 g, 4.42 mmol) and sodium acetate (0.36 g, 4.42 mmol) in acetic acid. The reation mixture is stirred for 15 minutes and poured into a 1% sodium bisulfite solution. The solids are filtered from the aqueous mixture, dried overnight under high vacuum and recrystallized from ethyl acetate and hexane to obtain the title product as red crystals (1.21 g, 90%, mp 224°-226° C.

reactant | Bromine | 4.42 mmol, 0.71 g | BrBr | Br2
reactant | 2-(2-furyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 4.42 mmol, 1.00 g | O1C(=CC=C1)C=1NC(=CC1C#N)C(F)(F)F | C10H5F3N2O
reactant | sodium acetate | 4.42 mmol, 0.36 g | C(C)(=O)[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-Bromo-2-furyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | BrC1=CC=C(O1)C=1NC(=CC1C#N)C(F)(F)F | C10H4BrF3N2O
